US04117226
Similarly, equimolar amounts of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one and 3,4-dimethoxybenzaldehyde or 2,3-dimethoxybenzaldehyde are reacted as above to yield the products, 5-acetyl-3-(3,4-dimethoxycinnamoyl)-4-hydroxy-2H-pyran-2,6(3H)-digne, m.p. 223°-225° C., and 5-acetyl-3-(2,3-dimethoxycinnamoyl)-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 175°-176° C., respectively.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | 2,3-dimethoxybenzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
product | 5-acetyl-3-(2,3-dimethoxycinnamoyl)-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)C(C=CC1=C(C(=CC=C1)OC)OC)=O)O | C18H16O8
